US05409809
2-(2,3,4,5,6-Pentafluorobenzylthio)pyrimidine (I-2)
To a mixture of 0.47 g of 2-mercapto-pyrimidine in 15 ml 95% ethanol was added 0.18 g of NaOH. The mixture was stirred 45 min. until an amber solution resulted; then 1 g of 2,3,4,5,6-pentafluorobenzyl bromide was added. The adduct precipitated within five minutes. Stirring continued for one hour. Filtration of the mixture yielded 0.26 g, mp 89°-92° C.

reactant | 2-mercapto-pyrimidine | 0.47 g | SC1=NC=CC=N1 | C4H4N2S
reactant | NaOH | 0.18 g | [OH-].[Na+]
reactant | 2,3,4,5,6-pentafluorobenzyl bromide | 1 g | FC1=C(CBr)C(=C(C(=C1F)F)F)F | C7H2BrF5
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 2-(2,3,4,5,6-Pentafluorobenzylthio)pyrimidine | FC1=C(CSC2=NC=CC=N2)C(=C(C(=C1F)F)F)F | C11H5F5N2S
